US07268152B2
Synthesis of 7-[3-(3-chloro-2-fluoro-5-trifluoromethylbenzyl)-4,4,4-trifluoro-3-hydroxy-1,1-dimethylbutyl]-2,3-dihydrobenzofuran-5-carbonitrile
The title compound was prepared from 7-(4,4,4-trifluoro-1,1-dimethyl-3-oxobutyl)-2,3-dihydrobenzofuran-5-carbonitrile and 3-chloro-2-fluoro-5-trifluoromethylbenzyl bromide using the procedure described in Example 5.

reactant | 7-(4,4,4-trifluoro-1,1-dimethyl-3-oxobutyl)-2,3-dihydrobenzofuran-5-carbonitrile | FC(C(CC(C)(C)C1=CC(=CC=2CCOC21)C#N)=O)(F)F | C15H14F3NO2
reactant | 3-chloro-2-fluoro-5-trifluoromethylbenzyl bromide | ClC=1C(=C(CBr)C=C(C1)C(F)(F)F)F | C8H4BrClF4
product | 7-[3-(3-chloro-2-fluoro-5-trifluoromethylbenzyl)-4,4,4-trifluoro-3-hydroxy-1,1-dimethylbutyl]-2,3-dihydrobenzofuran-5-carbonitrile | ClC=1C(=C(CC(CC(C)(C)C2=CC(=CC=3CCOC32)C#N)(C(F)(F)F)O)C=C(C1)C(F)(F)F)F | C23H19ClF7NO2
